data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1CCOC1.CN1C(=O)CCC2(C)C3=C(C=C(Br)C=C3)CCC12.ClC(Cl)Cl.O=C([O-])[O-].OB(O)C1=CC=C(F)C(C(F)(F)F)=C1.[Na+].[Na+].[Pd:1]|(2, 1)",30,6,reaction_30,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1CCOC1.CN1C(=O)CCC2(C)C3=CC=C(Br)C=C3CCC12.ClC(Cl)Cl.O=C([O-])[O-].OB(O)C1=CC=C(F)C(C(F)(F)F)=C1.[Na+].[Na+]|(1, 2)",30,5,reaction_30,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1CCOC1.CN1C(=O)CCC2(C)C3=CC=[C:2]([Br:3])C=C3CCC12.ClC(Cl)Cl.O=C([O-])[O-].OB(O)C1=CC=C(F)C(C(F)(F)F)=C1.[Na+].[Na+]|(1, 2);((2, 3), 1)",30,4,reaction_30,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1CCOC1.CN1C(=O)CCC2(C)C3=CC=[C]([Pd-2:1]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[Br:2])C=C3CCC12.ClC(Cl)Cl.O=C([O-])[O-:3].OB(O)C1=CC=C(F)C(C(F)(F)F)=C1.[Na+:4].[Na+]|(3, 1);((1, 2), 4)",30,3,reaction_30,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1CCOC1.CN1C(=O)CCC2(C)C3=CC=[C]([Pd-2:1]([O]C(=O)[O-])([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)C=C3CCC12.ClC(Cl)Cl.O[B:2](O)[C:3]1=CC=C(F)C(C(F)(F)F)=C1.[Na+].[Na][Br]|(1, 3);((3, 2), 1)",30,2,reaction_30,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1CCOC1.CN1C(=O)CCC2(C)C3=CC=[C]([Pd-2:1]([C]4=CC=C(F)C(C(F)(F)F)=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([O:2]C(=O)[O-])[B:3](O)O)C=C3CCC12.ClC(Cl)Cl.[Na+].[Na][Br]|((1, 2), 3);((3, 1), 1)",30,1,reaction_30,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1CCOC1.CN1C(=O)CCC2(C)C3=CC=[C:3]([Pd-2:1]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[C:2]4=CC=C(F)C(C(F)(F)F)=C4)C=C3CCC12.ClC(Cl)Cl.O=C([O-])OB(O)O.[Na+].[Na][Br]|((1, 3), 2);((2, 1), 1)",30,0,reaction_30,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC(=O)C1=CC=CN=C1Br.O=C([O-])[O-].OB(O)C1=CC=C(Cl)C=C1.[K+].[K+].[Pd:2]|(1, 2)",5,6,reaction_7,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC(=O)C1=CC=CN=C1Br.O=C([O-])[O-].OB(O)C1=CC=C(Cl)C=C1.[K+].[K+]|(1, 2)",5,5,reaction_7,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC(=O)C1=CC=CN=[C:2]1[Br:3].O=C([O-])[O-].OB(O)C1=CC=C(Cl)C=C1.[K+].[K+]|(1, 2);((2, 3), 1)",5,4,reaction_7,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC(=O)C1=CC=CN=[C]1[Pd-2:1]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[Br:2].O=C([O-])[O-:3].OB(O)C1=CC=C(Cl)C=C1.[K+:4].[K+]|(3, 1);((1, 2), 4)",5,3,reaction_7,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC(=O)C1=CC=CN=[C]1[Pd-2:1]([O]C(=O)[O-])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[B:2](O)[C:3]1=CC=C(Cl)C=C1.[K+].[K][Br]|(1, 3);((3, 2), 1)",5,2,reaction_7,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC(=O)C1=CC=CN=[C]1[Pd-2:1]([C]1=CC=C(Cl)C=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([O:2]C(=O)[O-])[B:3](O)O.[K+].[K][Br]|((1, 2), 3);((3, 1), 1)",5,1,reaction_7,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC(=O)C1=CC=CN=[C:3]1[Pd-2:1]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:2]1=CC=C(Cl)C=C1.O=C([O-])OB(O)O.[K+].[K][Br]|((1, 3), 2);((2, 1), 1)",5,0,reaction_7,USPTO_suzuki,train
